US07329658B2
Preparation of (1S,4S)-7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methyl-4-[5-(ethanesulfonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]-pyrazolo[1,5-a][1,3,5]triazine (10A-1)
To a suspension of (1S,4S)-7-(2-chlorophenyl)-8-(4-chlorophenyl)-4-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2-methylpyrazolo[1,5-a][1,3,5]triazine, hydrochloride salt (9A-1; 24.3 mg, 0.0463 mmol) in methylene chloride (1 ml) was added diisopropylethylamine (0.028 ml, 0.16 mmol), followed by a 0.56 M solution of ethanesulfonyl chloride in methylene chloride (0.1 ml, 0.056 mmol). After stirring overnight, the reaction directly loaded and then purified on a Biotage™ Flash 12S column using 0-20% methanol in methylene chloride as eluant to afford 10A-1 (18 mg, 72%) as a solid: +ESI MS (M+1) 543.3; 1H NMR (400 MHz, CD3OD) δ 7.50-7.36 (m, 4H), 7.32 (d, J=8.3 Hz, 2H), 7.21 (d, J=8.3 Hz, 2H), 4.58 (br s, 1H), 3.62 (s, 2H), 3.11 (q, J=7.5 Hz, 2H), 2.46 (s, 3H), 2.18-2.21 (br m, 2H), 1.30 (t, J=7.5 Hz, 2H).

reactant | (1S,4S)-7-(2-chlorophenyl)-8-(4-chlorophenyl)-4-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2-methylpyrazolo[1,5-a][1,3,5]triazine, hydrochloride salt | 0.0463 mmol, 24.3 mg | Cl.ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2[C@@H]3CN[C@H](C2)C3)C)=C1C1=CC=C(C=C1)Cl
reactant | diisopropylethylamine | 0.16 mmol, 0.028 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.056 mmol, 0.1 ml | C(Cl)Cl | CH2Cl2
product | (1S,4S)-7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methyl-4-[5-(ethanesulfonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]-pyrazolo[1,5-a][1,3,5]triazine | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2[C@@H]3CN([C@H](C2)C3)S(=O)(=O)CC)C)=C1C1=CC=C(C=C1)Cl | C25H24Cl2N6O2S
